US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (0.19 mL) was added to a dioxane (3.0 mL) suspension of the obtained methyl 4-(furan-2-yl)-2-(5-phenylpyridine-3-carboxamido)benzoate (76 mg) at room temperature, followed by stirring at the same temperature for 3 hours and 20 minutes. A 2 mol/L aqueous solution of sodium hydroxide (0.19 mL) was added to the reaction mixture at room temperature, followed by stirring at 50 to 55° C. for 4 hours. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure. To the obtained residue, 1 mol/L hydrochloric acid (1.5 mL) was added. The solid substance was collected by filtration to obtain 69 mg of 4-(furan-2-yl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a white solid.

reactant | sodium hydroxide | 0.19 mL | [OH-].[Na+]
reactant | methyl 4-(furan-2-yl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 76 mg | O1C(=CC=C1)C1=CC(=C(C(=O)OC)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C24H18N2O4
reactant | sodium hydroxide | 0.19 mL | [OH-].[Na+]
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | 4-(furan-2-yl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 69 mg | O1C(=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C23H16N2O4
